US07435744B2
5c) 2-(4-Benzyl-piperidin-1-yl)-N-(4-cyano-phenyl)-2-oxo-acetamide
The title compound is prepared from 4-amino-benzonitrile (Aldrich) and (4-benzyl-piperidin-1-yl)-oxo-acetic acid according to the method described in Example 2. Melting Point: 166-169° C. (diethylether)

reactant | 4-amino-benzonitrile | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | (4-benzyl-piperidin-1-yl)-oxo-acetic acid | C(C1=CC=CC=C1)C1CCN(CC1)C(C(=O)O)=O | C14H17NO3
solvent | diethylether | C(C)OCC | C4H10O
product | 2-(4-Benzyl-piperidin-1-yl)-N-(4-cyano-phenyl)-2-oxo-acetamide | C(C1=CC=CC=C1)C1CCN(CC1)C(C(=O)NC1=CC=C(C=C1)C#N)=O | C21H21N3O2
